US04062859
EXAMPLE 1 -- Preparation of 4,5-dichloro-3-isothiazolidinone 1-oxide
To a solution of 2.2g. (0.02 mole) of 4-isothiazolin-3-one 1-oxide in 80 ml. ethylene dichloride (EDC) is added 2.4g. (0.02 mole) of sulfuryl chloride. The mixture is stirred at room temperature overnight. The white solid which forms is filtered, washed with EDC and air dried to yield 2.0g. (52%) of product.

reactant | 4-isothiazolin-3-one 1-oxide | 0.02 mole | S1(NC(C=C1)=O)=O | C3H3NO2S
reactant | sulfuryl chloride | 0.02 mole | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | 4,5-dichloro-3-isothiazolidinone 1-oxide | ClC1C(NS(C1Cl)=O)=O | C3H3Cl2NO2S
